US08349533B2
1-adamantanecarbonyl chloride and 2-bromo-2,2-difluoroethanol were mixed in tetrahydrofuran, and ice-cooled. Triethylamine was added into the mixture, and then a typical liquid separating operation and a distillation removal of solvent were conducted, to obtain 1-adamantanecarboxylic acid=2-bromo-2,2-difluoroethyl. Next, conversion into sodium sulfinate by sodium dithionite and oxidation by hydrogen peroxide were conducted for the mixture, to obtain intended sodium 2-(1-adamantanecarbonyloxy)-1,1-difluoroethanesulfonate.

reactant | 1-adamantanecarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | 2-bromo-2,2-difluoroethanol | BrC(CO)(F)F | C2H3BrF2O
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-adamantanecarboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
